US07449475B2
2-[[(4S)-4-Hydroxy-4-methyl-2-isoxazolidinyl]carbonyl]-benzoic acid methyl ester
A solution of 2-[[(2R)-3-Chloro-2-hydroxy-2-methylpropyl]oxy]-1H-isoindole-1,3 (2H)-dione (3.3 g, 12.2 mmol) in methanol (25 ml) was treated with triethylamine (3.4 ml) and heated under nitrogen at reflux for 1 h. The mixture was concentrated to dryness and purified by chromatography eluting with a gradient from dichloromethane to 5% methanol in dichloromethane. The chiral purity of the product was enhanced by recrystallising twice from acetonitrile to give the sub-title compound as a colourless solid (1.92 g).

reactant | 2-[[(2R)-3-Chloro-2-hydroxy-2-methylpropyl]oxy]-1H-isoindole-1,3 (2H)-dione | 12.2 mmol, 3.3 g | ClC[C@](CON1C(C2=CC=CC=C2C1=O)=O)(C)O | C12H12ClNO4
reactant | triethylamine | 3.4 ml | C(C)N(CC)CC | C6H15N
reactant | methanol | 25 ml | CO | CH4O
product | 2-[[(4S)-4-Hydroxy-4-methyl-2-isoxazolidinyl]carbonyl]-benzoic acid methyl ester | 1.92 g | COC(C1=C(C=CC=C1)C(=O)N1OC[C@@](C1)(C)O)=O | C13H15NO5
